US04814343
alpha-n-Butyl-alpha-(6-chloro-2,2-dimethyl-4H-1,3-benzodioxin-8-yl)-1-triphenylmethyl-1H-imidazole-4-methanol
This compound is prepared like the preceding compound by reacting the organomagnesium compound of 8-bromo-6-chloro-2,2-dimethyl-4H-1,3-benzodioxin with 1-(1-triphenylmethyl-1H-imidazol-4-yl)-1-pentanone. Yield: 54.6% of theory; M.P.: 124° C. (recrystallized from petroleum ether).

reactant | 8-bromo-6-chloro-2,2-dimethyl-4H-1,3-benzodioxin | BrC1=CC(=CC2=C1OC(OC2)(C)C)Cl | C10H10BrClO2
reactant | 1-(1-triphenylmethyl-1H-imidazol-4-yl)-1-pentanone | C1(=CC=CC=C1)C(N1C=NC(=C1)C(CCCC)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H26N2O
product | alpha-n-Butyl-alpha-(6-chloro-2,2-dimethyl-4H-1,3-benzodioxin-8-yl)-1-triphenylmethyl-1H-imidazole-4-methanol | Yield: 54.6% | C(CCC)C(O)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC2=C1OC(OC2)(C)C)Cl | C37H37ClN2O3
